US05324618
(5) Synthesis of Compound [I-a]: 1,1,4,4-tetrakis(4-hydroxyphenyl)cyclohexane
Into a molten mixture of 300 g (3.2 mole) of phenol and 22.4 g (0.2 mole) of 1,4-cyclohexanedione (m.p. 78° C.) was introduced hydrochloric acid gas at a temperature of 50° C. to saturation.

reactant | phenol | 3.2 mole, 300 g | C1(=CC=CC=C1)O | C6H6O
reactant | 1,4-cyclohexanedione | 0.2 mole, 22.4 g | C1(CCC(CC1)=O)=O | C6H8O2
reactant | hydrochloric acid | Cl | ClH
product | 1,1,4,4-tetrakis(4-hydroxyphenyl)cyclohexane | OC1=CC=C(C=C1)C1(CCC(CC1)(C1=CC=C(C=C1)O)C1=CC=C(C=C1)O)C1=CC=C(C=C1)O | C30H28O4
